US07943625B2
(c) 3-(2-Methoxy-2-methylpropyl)-2-thioxanthine
Ethoxycarbonyl isothiocyanate (0.144 g, 1.1 mmol) was added to a stirred solution of 4-[(2-methoxy-2-methylpropyl)amino]-1H-imidazole-5-carboxamide (0.155 g, 0.73 mmol), which was obtained from Example 3(b), in CH2Cl2 (2.5 mL) at r.t. for 16 h. The solvent was evaporated and the residue was then dissolved in 2% aqueous sodium hydroxide (NaOH) solution (10 mL) and heated at 50° C. for 3 h. The pH was adjusted to neutral with 2 M HCl and the resulted precipitates were collected by filtration followed by prep-HPLC purification. The title compound was obtained as a white solid in 32% yield (60 mg).

reactant | Ethoxycarbonyl isothiocyanate | 1.1 mmol, 0.144 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 4-[(2-methoxy-2-methylpropyl)amino]-1H-imidazole-5-carboxamide | 0.73 mmol, 0.155 g | COC(CNC=1N=CNC1C(=O)N)(C)C | C9H16N4O2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Methoxy-2-methylpropyl)-2-thioxanthine | 32% yield | COC(CN1C(NC(C=2NC=NC12)=O)=S)(C)C | C10H14N4O2S
